US08334293B2
Add hydrogen chloride (4.00 equiv; 81.41 mmoles; 20.35 mL) to a solution of 4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (8.7 g; 1.00 equiv; 20.35 mmoles) in dichloromethane (101.77 mL), at RT. Stir the solution at RT for 1 hour. Remove the solvent under reduced pressure, and dissolve the crude in isopropyl alcohol (101.77 mL). Add 4-chloro-1H-pyrazolo[3,4-d]pyrimidine (1.65 equiv; 33.58 mmoles; 5.19 g) and triethylamine (10 equiv; 203.54 mmoles; 28.37 mL). Stir the mixture at reflux for 1 hour. Remove the solvent under reduced pressure and triturate the crude in water overnight. Filter the solid and triturate in hot acetonitrile, filter and dry in vacuo. 4-{4-[5-(4-Fluoro-3-trifluoromethyl-phenyl)-3-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine (8.42 g; 18.86 mmoles; 92.66% yield) is obtained as a light yellow solid.

reactant | hydrogen chloride | 81.41 mmoles, 20.35 mL, 4.00 equiv | Cl | ClH
reactant | 4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 20.35 mmoles, 8.7 g, 1.00 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H25F4N3O2
reactant | 4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 33.58 mmoles, 5.19 g, 1.65 equiv | ClC1=C2C(=NC=N1)NN=C2 | C5H3ClN4
reactant | triethylamine | 203.54 mmoles, 28.37 mL, 10 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 101.77 mL | ClCCl | CH2Cl2
product | 4-{4-[5-(4-Fluoro-3-trifluoromethyl-phenyl)-3-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine | 18.86 mmoles, 8.42 g, 92.66% yield | FC1=C(C=C(C=C1)C1=CN(C(N1)C1CCN(CC1)C1=C2C(=NC=N1)NN=C2)C)C(F)(F)F | C21H21F4N7
